* Schematic reference netlist: three-stage CMOS ring of IHP SG13G2 LV MOSFETs.
* Wp/Wn matches sg13g2_inv_1. lch=0.81u targets ~500 MHz pre-layout.
* Port order: out VPWR VGND.
.subckt trosc out VPWR VGND lch=0.81u
* stage 0: in=out, out=n1
Xp0 n1 out VPWR VPWR sg13_lv_pmos w=1.12u l={lch} ng=1 m=1
Xn0 n1 out VGND VGND sg13_lv_nmos w=0.74u l={lch} ng=1 m=1
* stage 1: in=n1, out=n2
Xp1 n2 n1 VPWR VPWR sg13_lv_pmos w=1.12u l={lch} ng=1 m=1
Xn1 n2 n1 VGND VGND sg13_lv_nmos w=0.74u l={lch} ng=1 m=1
* stage 2: in=n2, out=out
Xp2 out n2 VPWR VPWR sg13_lv_pmos w=1.12u l={lch} ng=1 m=1
Xn2 out n2 VGND VGND sg13_lv_nmos w=0.74u l={lch} ng=1 m=1
.ends trosc
